US04954502
A mixture of 1-(6-chloro-2-pyridinyl)piperazine (6.0 g) and NaOMe (16.42 g) in DMF (25 mL,) was heated at 100° C. under nitrogen atmosphere for 20 h. The excess DMF was then removed under reduced pressure. Water (5 mL) was added to the residue and the mixture extracted with CH2Cl2. The combined organic layers were washed with sat. NaCl solution, dried with anhydrous MgSO4, filtered and concentrated under reduced pressure. Silica gel chromatography (CH2Cl2 /MeOH; 98:2) of the concentrate yielded the 4-(6-methoxy-2-pyridinyl)1-piperazinecarboxaldehyde (5.13 g; 81%).

reactant | 1-(6-chloro-2-pyridinyl)piperazine | 6.0 g | ClC1=CC=CC(=N1)N1CCNCC1 | C9H12ClN3
reactant | NaOMe | 16.42 g | C[O-].[Na+]
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 4-(6-methoxy-2-pyridinyl)1-piperazinecarboxaldehyde | 5.13 g, 81% | COC1=CC=CC(=N1)N1CCN(CC1)C=O | C11H15N3O2
